US04582821
Z-Phe-Gly-Ala-OH (0.77 g, 1.80 mmoles) was coupled to H-TyrCH2Cl.HCl by a mixed anhydride coupling procedure substantially similar to that used for the preparation of Z-Phe-Gly-Leu-LeuCH2Cl in Procedure E. Product was crystallized from ethyl acetate to yield 0.73 g of Z-Phe-Gly-Ala-TyrCH2Cl, which slowly decomposed from 140°-160° and melted with complete decomposition at 160°-160.5°.

reactant | Z-Phe-Gly-Ala-OH | 1.80 mmoles, 0.77 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H25N3O6
reactant | H-TyrCH2Cl.HCl | N[C@@H](CC1=CC=C(C=C1)O)C(=O)CCl.Cl
reactant | Z-Phe-Gly-Leu-LeuCH2Cl | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H43ClN4O6
product | Z-Phe-Gly-Ala-TyrCH2Cl | 0.73 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H35ClN4O7
